US06222062B1
3-Chlorocarbonyl-propionic acid 3,7-dimethyl-oct-6-enylester
A solution of 35.5 g succinic acid mono-(3,7-dimethyl-oct-6-enyl) ester and 12.3 g pyridine in 200 ml of ether was cooled in an ice bath. Then a solution of 18.0 g thionyl chloride in 100 ml of ether was added dropwise at 5-10° C. during 90 min. The resulting solution was stirred overnight at room temperature, then it was filtered and evaporated to dryness. The residue was not further purified to yield 31.5 g of a yellow liquid.

reactant | succinic acid mono-(3,7-dimethyl-oct-6-enyl) ester | 35.5 g | CC(CCOC(CCC(=O)O)=O)CCC=C(C)C | C14H24O4
reactant | pyridine | 12.3 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 18.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-Chlorocarbonyl-propionic acid 3,7-dimethyl-oct-6-enylester | 31.5 g | CC(CCOC(CCC(=O)Cl)=O)CCC=C(C)C | C14H23ClO3
